US08084442B2
3(S)-[(6-bromopyridin-2-yl)-(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 1.06 mmol), zinc cyanide (250 mg, 2.12 mmol) and tetrakis(triphenylphosphine)palladium (122 mg, 0.106 mmol) were suspended in 8 ml of dimethylformamide (DMF), followed by stirring under a nitrogen atmosphere at 110° C. for 9 hours. After cooling to room temperature, ethyl acetate and water were added to the reaction solution to separate the solution into layers. The organic layer was washed with water and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=6:1→3:1). The solvent was distilled off from the purified product under reduced pressure to thereby obtain 398 mg of oily colorless 3(S)-[(3-chloro-4-fluorophenyl)-(6-cyanopyridin-2-yl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 3(S)-[(6-bromopyridin-2-yl)-(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester | 1.06 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N(C1=CC(=C(C=C1)F)Cl)C1=NC(=CC=C1)Br | C20H22BrClFN3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 2.12 mmol, 250 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.106 mmol, 122 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3(S)-[(3-chloro-4-fluorophenyl)-(6-cyanopyridin-2-yl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester | 398 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N(C1=NC(=CC=C1)C#N)C1=CC(=C(C=C1)F)Cl | C21H22ClFN4O2
